US05155113
Preparation of 4-(3-benzyloxycarbonylbenzoyloxy)-5-chloro-2-pyridone
The general procedure of Example 1 was followed using 2.20 g of 5-chloro-4-hydroxy-2-pyridone and 5.31 g of 3-benzyloxycarbonylbenzoyl chloride, thereby giving 1.73 g of the title compound in a yield of 29%.

reactant | 5-chloro-4-hydroxy-2-pyridone | 2.20 g | ClC=1C(=CC(NC1)=O)O | C5H4ClNO2
reactant | 3-benzyloxycarbonylbenzoyl chloride | 5.31 g | C(C1=CC=CC=C1)OC(=O)C=1C=C(C(=O)Cl)C=CC1 | C15H11ClO3
product | 4-(3-benzyloxycarbonylbenzoyloxy)-5-chloro-2-pyridone | 1.73 g, yield of 29% | C(C1=CC=CC=C1)OC(=O)C=1C=C(C(=O)OC2=CC(NC=C2Cl)=O)C=CC1 | C20H14ClNO5
